US07037938B2
To a solution of 4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]benzyl]phenol (390 mg) in tetrahydrofuran (3.5 ml) and water (3.5 ml) was added di-tert-butyl dicarbonate (223 mg), and the mixture was stirred at room temperature for 30 minutes. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give tert-butyl (2R)-N-[2-(3-chlorophenyl)-2-hydroxyethyl]-N-[2-[4-(4-hydroxybenzyl)phenyl]ethyl]carbamate (480 mg).

reactant | 4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]benzyl]phenol | 390 mg | ClC=1C=C(C=CC1)[C@H](CNCCC1=CC=C(CC2=CC=C(C=C2)O)C=C1)O | C23H24ClNO2
reactant | di-tert-butyl dicarbonate | 223 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | water | 3.5 ml | O | H2O
product | tert-butyl (2R)-N-[2-(3-chlorophenyl)-2-hydroxyethyl]-N-[2-[4-(4-hydroxybenzyl)phenyl]ethyl]carbamate | 480 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)CC1=CC=C(C=C1)O)O | C28H32ClNO4
